US04664693
Sodium hydride (0.27 g) and 3-hydroxy-5-(benzo[b]thien-5-yl)cyclohex-2-en-1-one (2.5 g) were stirred in anhydrous dimethylformamide (25 ml) at 60° C. under nitrogen for 20 min. Propionic anhydride (1.5 ml) was added and the mixture was stirred and heated at 110° C. for 4 hr. The cooled mixture was poured into an ice/dilute hydrochloric acid solution, and the resulting mixture was extracted with diethyl ether. After evaporation of the dried (MgSO4) organic extract the residue was purified by column chromatography over silica gel with chloroform/hexane (1:1 v/v) elution to give 3-hydroxy-5-(benzo[b]thien-5-yl)-2-propionylcyclohex-2-en-1-one as a yellow solid, mp 134° C. Pmr spectrum (CDCl3 ; δ in ppm): 1.20 (3H, t); 2.72-3.04 (4H, m); 3.04-3.24 (2H, q); 3.32-3.60 (1H, m); 7.12-7.28 (2H, m); 7.44 (1H, d); 7.60 (1H, s); 7.80 (1H, d); 18.16 (1H, s).

reactant | Sodium hydride | 0.27 g | [H-].[Na+]
reactant | 3-hydroxy-5-(benzo[b]thien-5-yl)cyclohex-2-en-1-one | 2.5 g | OC1=CC(CC(C1)C1=CC2=C(SC=C2)C=C1)=O | C14H12O2S
reactant | Propionic anhydride | 1.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-5-(benzo[b]thien-5-yl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=CC2=C(SC=C2)C=C1)=O)C(CC)=O | C17H16O3S
